data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4113,"C[NH+](C)C1=CC=C[CH:1]=[CH:2]1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8520,"C[P+](C)(C)[CH2:1][H:2].[H:3][K:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3511,"C=C=C(C(CCC1CCCCC1=O)[O:1][B-]1(O)C2CCCC1CCC2)[Si](C)(C)C.[Na+:2]|(1, 2)"
train,pmechdb_split_0,0,3756,"CC(=O)[O-:1].C[C:2]([CH:3](CC(=O)C1=CC=CC=C1)[H:4])=[NH2+:5].O|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,5662,"CC1=C([Si](C)(C)C)CC2C(C)CCCC(=[O+:1][Ti-:2]([Cl])([Cl])([Cl])[Cl])C12|((2, 1), 1)"
train,pmechdb_split_0,0,4459,"CC(C)CC1=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1.CC(C)CCCCC(O)C(OC1=CC=CC=C1)C(=O)O.CCOC(=O)[N:2]=[N:3]C(=O)OCC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9905,"CC(=O)C1=C[CH:1]=[CH:2]O1.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4596,"C=CC1=CC=C(C(O)=[O:1])C=C1.CO.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8103,"C#CC[Si](C)(C)C.CC1CCC2C(C)C(OC(C3=CC=CC=C3)=[O:1])OC3OC4(C)CCC1C32OO4.[Cl][Zn:2][Cl]|(1, 2)"
train,pmechdb_split_0,0,6087,"O=C(C1=CC=CC=C1)[CH2:1][Br:2].OCC[NH:3]CCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9636,"CC=C[CH2:1][I:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4652,"CC(=O)[O-:1].O=S(CCN1CCC2CCC(O)([NH+:2](NC3=CC=CC=C3)[H:3])CC21)C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6506,"C[CH:1]([C:2](Br)(Br)Br)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,586,"CO[P+:1](OC)(OC)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5134,"C[CH:1]([C:2](C)=[CH:3][O-:4])[OH:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,9586,"C1=NN=N[N-:1]1.CO[P+:2](OC)(OC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9634,"CCC(CC=O)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6854,"CCO[P:1](C)(C)(C)[I:2]|((1, 2), 2)"
train,pmechdb_split_0,0,338,"CC=CCO[S:1](Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,330,"C1CC[NH+:1]([H:2])C1.CC1(CCC(C)(N2CCCC2)[OH:3])C(=O)CCCC1=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5494,"O=C1CCC(=O)N1.O=CC1=CC=C(CO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])O1|((1, 2), 2)"
train,pmechdb_split_0,0,7902,"C[SH:1].[CH3:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6896,"C1=CC=C(C[S+:1](C2=NC3=C(C=CC=C3)N2)[O-:2])N=C1|(2, 1)"
train,pmechdb_split_0,0,4597,"CCCC=[O:1].CC[BH-](CC)CC.[AlH4-].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,645,"C1CC2C(C1)[C:1]2=[O:2].[Cl-].[Na][OH:3].[OH2+][Na]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6958,"CC(C)[N](C(C)C)[Li:1].CC(CCCO[Si](C)(C)C(C)(C)C)C1CCCC1=[O:2]|(2, 1)"
train,pmechdb_split_0,0,883,"CCO.CCOP(=O)(OCC)C(C)C(=O)CC1CCCC12OCC[O:1]2.O.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6715,"C=CC(=O)[O:1][C:2](C)(SCC)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6415,"F[B:1](F)F.NC=[O:2]|(2, 1)"
train,pmechdb_split_0,0,3218,"C[NH:1][CH:2]=[S:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4261,"C[P:1](C)C.I[C:2](I)(I)[I:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8322,"COC1=C(OC)C=C2C(=C1)OC1=C(C=CC=C1OCC1=CC=CC=C1)C2CN(C)C(=O)[CH-:1][S+:2](C)[O:3]C(=O)C(F)(F)F.O=C(O)C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4189,"CC1(C)CC[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6345,"CCCC(C)[OH:1].ClCC[S+:2]1C[CH2:3]1.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5522,"C1CNC2=[N:1]CCCN2C1.O=C(C1=CC=CC=C1)[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9705,"CC(=O)[O-].CS(=O)(=O)[O:1][CH2:2]C12CCC[CH:3]=[C:4]1CCC2|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8323,"CC(=O)O[Si:1](C)(C)C.C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,1880,"CN1C(=O)C2=CC=CN2C=C1CCC[N:1]=[C:2](C1=C(C(=O)NN)C=CC=C1)[O-:3].N[NH2+:4][H:5].O.[Cl-].[K+]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2707,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.OC1([N+:2]2([H:3])CCCC2)CC2=C(C=CC=C2)C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9979,"Br[C:1]1=[CH:2]C=CC=C1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,1521,"CCOC(=O)[C:1](CC(Br)C(C)=O)([H:2])[N+:3]([O-])=[O:4].O=C([O][Na])[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7501,"C[P:1](C)C.Cl[C:2](Cl)(Cl)[Cl:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6621,"CC(C)=CCCC(C)=C[CH:1]=[N+:2](C)C.CCCCCC1=C[C:3]([O-:4])=[CH:5]C(O)=C1|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6430,"C=[C+:1][CH2:2][Si-:3](C)(C)(C)[O+](C)[B-](C)(C)C|((3, 2), 1)"
train,pmechdb_split_0,0,273,"CCOCC.COC1=CC(CC(CCOCC2=CC=CC=C2)[O:1][CH2:2][OH+:3]C)=C(OC)C2=CC=CC(OC)=C12.CO[B-](F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6137,"CC[NH+](CC)CC.Cl[P:1](Cl)(Cl)=[O:2].O=[N+]([O-])C1=C(Cl)N=C2C=CC=CC2=C1[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7364,"C1CC[NH:1]CC1.CC(=O)[O-].CCC(C)CC=[N+]1CCCCC1.CCOC(=O)[CH:2]([H:3])[C:4](C)=[OH+:5].O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1676,"C[CH:1]([O:2][B-](F)(F)F)[OH+:3]C|(2, 1);((1, 3), 3)"
